US07282512B2
To a solution of 1.0 g (8.6 mmol) of [1-(hydroxymethyl)cyclobutyl]methanol in 20 mL of dichloromethane was added 2.48 g (9.48 mmol) of triphenylphosphine and 2.18 g (9.48 mmol) of di-tertbutylazodicarboxylate. After 5 min of stirring, 1.03 g (9.05 mmol) of 1-methyl-2-mercaptoimidazole was added as a solid. After stirring for 2 h, the reaction was concentrated under vacuum and the residue was purified using silica gel chromatography eluting with ethyl acetate:hexane (3:7) to afford 1.3 g (71%) of (1-{[(1-methyl-1H-imidazol-2-yl)sulfanyl]methyl}cyclobutyl)methanol as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 6.95 (s, 1H), 6.87 (s, 1H), 6.54 (br s, 1H), 3.62 (s, 2H), 3.56 (s, 3H), 3.43 (s, 2H), 1.98-1.75 (m, 6H).

reactant | [1-(hydroxymethyl)cyclobutyl]methanol | 8.6 mmol, 1.0 g | OCC1(CCC1)CO | C6H12O2
reactant | triphenylphosphine | 9.48 mmol, 2.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-methyl-2-mercaptoimidazole | 9.05 mmol, 1.03 g | CN1C(=NC=C1)S | C4H6N2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (1-{[(1-methyl-1H-imidazol-2-yl)sulfanyl]methyl}cyclobutyl)methanol | 1.3 g, 71% | CN1C(=NC=C1)SCC1(CCC1)CO | C10H16N2OS
